US07632839B2
Step 3: 3-benzyl-2-isobutylpyrido[3,4-d]pyrimidin-4(3H)-one (1-4)
To a solution of 2-isobutyl-4H-pyrido[3,4-d][1,3]oxazin-4-one (3.0 g, 14.68 mmol) in CHCl3 was added benzylamine (1.73 g, 16.15 mmol) and the reaction was heated to 60° C. After 3 h, the reaction was cooled to room temperature and solvent removed in vacuo. The resulting residue was dissolved in ethylene glycol and sodium hydroxide (0.385 g, 9.62 mmol) was added. The reaction was stirred overnight at 140° C. After cooling to room temperature and extracting with DCM, the organic solution was washed with water. The solution was dried over sodium sulfate and filtered. Concentration of the organic solution provided the title compound as a brown oil. 1H NMR (500 MHz, CDCl3) δ 1.01 (d, J=7 Hz, 6H), 2.33-2.38 (m, 1H), 2.68 (d, J=7 Hz, 2H), 5.43 (s, 2H), 7.16 (d, J=7.5 Hz, 2H), 7.30-7.40 (m, 3H), 8.06 (d, J=5 Hz, 1H), 8.68 (d, J=5 Hz, 1H), 9.13 (s, 1H). MS [M+H] C18H19N3O=294.1.

reactant | 2-isobutyl-4H-pyrido[3,4-d][1,3]oxazin-4-one | 14.68 mmol, 3.0 g | C(C(C)C)C=1OC(C2=C(N1)C=NC=C2)=O | C11H12N2O2
reactant | benzylamine | 16.15 mmol, 1.73 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 9.62 mmol, 0.385 g | [OH-].[Na+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-benzyl-2-isobutylpyrido[3,4-d]pyrimidin-4(3H)-one | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C=CN=C2)CC(C)C | C18H19N3O
